US08071776B2
6-(2-Acetylamino-ethoxy)-3-amino-5-chloro-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide
To a solution of N-acetylethanolamine (1.120 g, 10.86 mmol) in THF (3 ml) at room temperature is added dropwise a solution of lithium bis(trimethylsilyl)amide (1.0 M in hexanes) (3.50 ml, 3.50 mmol). The reaction mixture is stirred for 15 minutes and then is treated with 3-amino-5-chloro-6-methanesulfinyl-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide (0.345 g, 1.00 mmol). The reaction mixture is heated at 80° C. in a sealed tube for 1.5 hours, cooled to room temperature, and then quenched by the addition of water (15 ml). Ice is added to the reaction mixture and, while stirring, a yellow precipitate is formed. This solid is collected by filtration and placed in the vacuum oven to dry (60° C. for 16 hours). This affords the title compound as a yellow solid (0.199 g, 52%). Mass (m/z): 383.2 (M++1), 381.1 (M+−1).

reactant | N-acetylethanolamine | 10.86 mmol, 1.120 g | C(C)(=O)NCCO | C4H9NO2
reactant | lithium bis(trimethylsilyl)amide | 3.50 mmol, 1.0 M, 3.50 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-amino-5-chloro-6-methanesulfinyl-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 1.00 mmol, 0.345 g | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)S(=O)C)S1)N | C13H14ClN3O2S2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 6-(2-Acetylamino-ethoxy)-3-amino-5-chloro-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 0.199 g, 52% | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)OCCNC(C)=O)S1)N | C16H19ClN4O3S
